US07084154B2
A solution of trans-N-[4-(3-chlorophenyl)-but-3-enyl]-phthalimide (0.50 g) and methylamine (2 M in tetrahydrofuran, 8 mL) in 20 mL ethanol was heated to reflux for 4 h. The solution was cooled to rt and the solvent was removed in vacuo. The resulting residue was dissolved in ethyl acetate and extracted 3 times with 1 M hydrochloric acid. The combined acid layers were made basic with potassium hydroxide to pH 9 and extracted with ethyl acetate. The ethyl acetate layer was dried over sodium sulfate and the solvent was removed in vacuo to yield 0.20 g of trans-4-(3-chlorophenyl)-but-3-enylamine.

reactant | trans-N-[4-(3-chlorophenyl)-but-3-enyl]-phthalimide | 0.50 g | ClC=1C=C(C=CC1)/C=C/CCN1C(C=2C(C1=O)=CC=CC2)=O | C18H14ClNO2
reactant | methylamine | 2 M, 8 mL | CN | CH5N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | trans-4-(3-chlorophenyl)-but-3-enylamine | 0.20 g | ClC=1C=C(C=CC1)/C=C/CCN | C10H12ClN
